Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Right sided weakness 
 
Major Surgical or Invasive Procedure:
___ Exploratory laparotomy and biopsies
___ Exploratory laparotomy, sigmoid resection, mobilization 
of splenic flexure, ___ bowel resection x3, ileostomy, left 
salpingo-oophorectomy and placement of a Prevena VAC.

 
History of Present Illness:
Ms. ___ is a ___ year old left-handed woman with history of 
atrial fibrillation on xarelto, AAA who presents after waking up 
with right leg weakness, right face, arm and leg parasthesias 
and difficulty ambulating. History provided by patient.

Ms. ___ reports that she was in her usual state of health 
until waking up this morning at approximately 5:30 AM with gait 
unsteadiness and right leg weakness.  She notices when she went 
up to go to the bathroom after waking up, feeling that her 
walking was "going from left to right." She felt that her right
leg was weak and "giving out and buckling" while walking.  When 
she went to make the bed, she fell and landed on her right 
occipital area, without loss of consciousness.  She also had 
developed right face, arm and leg paresthesias, described as a 
pins and needles sensation.  Her torso was spared with the
paresthesias.  Given her symptoms, she contacted her friend who 
brought her to the emergency department for further evaluation.

Over the last several weeks, she reports having intermittent 
gait unsteadiness, without focality. She reports that during 
this time, intermittently she has felt unsteady on her feet, 
lasting for a few seconds at a time, before resolving. It did 
not occur in any particular pattern, such as when moving from 
seating to standing position. She had no focal complaints until 
waking up
this morning with the above presentation.  In addition, over the 
last several weeks she has had diffuse abdominal pain and 
constipation.  She is been seen previously at ___ 
earlier this month, where she underwent a CT abdomen/pelvis, 
which revealed diverticulosis of the sigmoid and benign hepatic
cysts.  No acute process.  She was discharged home with 
conservative management.  She reports that her constipation and 
abdominal pain has been ongoing, not acutely worsening over this 
time period.

Ms. ___ is followed by Neurology under Dr. ___. He first 
saw her in ___ for follow up of a mild childhood seizure 
disorder. She has not had seizures in many years. He had 
followed her intermittently since then due to questionable 
cognitive complaints, which had been worked up with 
neuropsychological
testing in the past which was normal. Ultimately these 
complaints were attributed to impaired attention and 
concentration. She was last seen by Dr. ___ on ___ for 
long-standing word retrieval issues.  She reports intermittently 
having difficulty recalling nouns, where she has trouble 
thinking of this noun, however can recall it after ___ seconds.  
She also has difficulty paying attention.  If she sees a person 
and has difficulty with
the name, she can readily pick out the name after ___ few seconds. 
She has had no difficulties understanding or expressing speech.  
She sometimes has difficulty keeping track of a conversation if 
she is in a busy area or if there are multiple things going on.  
At that time, her neurologic examination remained within normal 
limits, and  symptoms felt consistent with age-related changes.
  
Prior to the above, denies any missed medications, denies any 
new medications, denies any other systemic symptoms, no recent 
trauma. Denies any exacerbation of baseline intermittent word 
retrieval issues. 

On neuro ROS, the pt reports mild R leg weakness, R face/arm/leg 
parasthesias. Denies headache, loss of vision, blurred vision, 
diplopia, dysarthria, dysphagia, lightheadedness, vertigo, 
tinnitus or hearing difficulty. Denies difficulties producing or 
comprehending speech.  Denies focal weakness, numbness, 
parasthesiae. No bowel or bladder incontinence or retention. 
 
On general review of systems, the pt reports generalized 
abdominal pain and constipation. Denies recent fever or chills. 
No night sweats or recent weight loss or gain. Denies cough, 
shortness of breath.  Denies chest pain or tightness, 
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
- Atrial fibrillation on xarelto
- AAA 
- Longstanding intermittent cognitive complaints as above,
attributed to age-related changes 
- Remote childhood seizure disorder 
 
 
Social History:
___
Family History:
Father died of stroke at age ___. Mother passed away from 
melanoma. Otherwise no family history of stroke or neurologic 
disease. 

 
Physical Exam:
===============================
ADMISSION PHYSICAL EXAMINATION: 
===============================

VS: T 98.6F  HR 66  BP 146/106  RR 18  O2 98% RA 

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in 
oropharynx
Neck: Supple. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
Mental Status: Alert, oriented x 3. Able to relate history 
without difficulty. Attentive, able to name ___ backward without 
difficulty. Language is fluent with intact repetition and 
comprehension. Perseverative on constipation. Normal prosody. 
There were no paraphasic errors. Pt was able to name both high
and low frequency objects.  Able to read without difficulty. 
Speech was not dysarthric. Able to follow both midline and 
appendicular commands. There was no evidence of apraxia or 
neglect.

Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation via finger 
wiggling. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

Motor: Normal bulk, tone throughout. RUE pronator drift. No 
adventitious movements, such as tremor, noted. No asterixis 
noted.
  Delt Bic Tri WrE  FE IO  IP Quad Ham  TA ___  ___ 
L  5    ___    ___  5    5    5    5      5
R  4    ___    ___  5    5    5    5      5 

Sensory: RUE sensory ataxia. Sensation intact to light touch, 
pinprick, cold sensation,  proprioception throughout. No 
extinction to DSS. Romberg positive. 

DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2+ 2+   2+   2+  2
Plantar response was flexor on left, extensor on right.

Coordination: Dysmetria with FNF on RUE and overshoot on 
cerebellar mirroring, ?out of proportion to weakness. No 
intention tremor. 

Gait: Stands without assistance. Good initiation. Gait is 
Narrow-based, though unsteady and requires 1 person assistance 
to take steps. No sway to any particular direction. Normal 
stride and arm swing. unable to walk in tandem. Romberg 
positive.  

===============================
DISCHARGE PHYSICAL EXAMINATION: 
===============================

VS: Temp: 98.7 (Tm 99.0), BP: 119/64 (104-119/62-71), HR: 88 
(56-98), RR: 17 (___), O2 sat: 95% (94-96), O2 delivery: RA

GENERAL: Alert and interactive. In no acute distress.
HEENT: Normocephalic, atraumatic. Pupils equal, round, and 
reactive bilaterally, extraocular muscles intact. Sclera 
anicteric and without injection. Moist mucous membranes, good 
dentition. Oropharynx is clear.
NECK: Thyroid is normal in size and texture, no nodules. No 
cervical lymphadenopathy. No JVD.
CARDIAC: Regular rate and rhythm. Audible S1 and S2. No 
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally w/appropriate breath 
sounds appreciated in all fields. No wheezes, rhonchi or rales. 
No increased work of breathing.
BACK: No spinous process tenderness. No CVA tenderness.
ABDOMEN: RLQ ileostomy in place with pink stoma. Midline 
dressing in place is clean and dry.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+ bilaterally.
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal 
sensation. Gait is normal. AOx3.
 
Pertinent Results:
===============
ADMISSION LABS: 
===============

___ 08:25AM BLOOD WBC: 9.2 RBC: 3.92 Hgb: 12.0 Hct: 36.8
MCV: 94 MCH: 30.6 MCHC: 32.6 RDW: 13.0 RDWSD: 44.___* 
___ 08:25AM BLOOD Neuts: 77.5* Lymphs: 10.6* Monos: 10.7
Eos: 0.5* Baso: 0.3 Im ___: 0.4 AbsNeut: 7.11* AbsLymp: 0.97*
AbsMono: 0.98* AbsEos: 0.05 AbsBaso: 0.03 
___ 08:25AM BLOOD ___: 12.4 PTT: 28.3 ___: 1.1 
___ 08:25AM BLOOD Glucose: 97 UreaN: 8 Creat: 0.6 Na: 141 
K:
4.0 Cl: 100 HCO3: 26 AnGap: 15 
___ 08:25AM BLOOD ALT: 16 AST: 37 AlkPhos: 66 TotBili: 0.5 
___ 08:25AM BLOOD Albumin: 3.5 Calcium: 9.4 Phos: 2.7 Mg:
2.0 Cholest: Pending 
___ 09:43AM BLOOD %HbA1c: 4.9 eAG: 94 
___ 08:25AM BLOOD Cholest: Pending Triglyc: Pending HDL:
Pending 
___ 08:25AM BLOOD ASA: NEG Ethanol: NEG Acetmnp: NEG
Tricycl: NEG 
___ 11:45AM URINE Color: Yellow Appear: Clear Sp ___:
>1.050* 
___ 11:45AM URINE Blood: NEG Nitrite: NEG Protein: TR*
Glucose: NEG Ketone: 40* Bilirub: NEG Urobiln: NEG pH: 6.5 
Leuks:
NEG 
___ 11:45AM URINE RBC: 1 WBC: 0 Bacteri: NONE Yeast: NONE
Epi: 13 
___ 11:45AM URINE bnzodzp: NEG barbitr: NEG opiates: NEG
cocaine: NEG amphetm: NEG oxycodn: NEG mthdone: NEG 

=====================
OTHER PERTINENT LABS:
=====================

___ 12:24AM BLOOD ___ 03:30AM BLOOD ___
___ 07:24AM BLOOD calTIBC-134* VitB12-681 Folate-16 
Ferritn-247* TRF-103*
___ 06:00AM BLOOD calTIBC-174* Ferritn-242* TRF-134*
___ 09:43AM BLOOD %HbA1c-4.9 eAG-94
___ 06:00AM BLOOD Triglyc-94 HDL-42 CHOL/HD-3.0 LDLcalc-66
___ 06:00AM BLOOD TSH-2.8
___ 05:00AM BLOOD Cortsol-10.3
___ 03:15AM BLOOD CEA-1.7 CA125-50*
___ 03:15AM BLOOD CA ___  

======
MICRO:
======

___ URINE CULTURE - mixed growth, likely contamination
___ C. DIFFICLE - negative
___ PELVIC COLLECTION SWAB - no growth
___ BLODD CULTURE - no growth
___ BLOOD CULTURE - no growth

================
IMAGING/REPORTS: 
================

___ CXR
AP upright and lateral views of the chest provided. The heart is 
top-normal in size. The lungs appear clear bilaterally. No large 
effusion, pneumothorax or evidence of edema. Mediastinal contour 
is normal.  There is a partially visualized levoscoliosis of the 
lower thoracic and lumbar spine. Imaged bony structures appear 
intact. 

___ CTA HEAD AND NECK
Equivocal hypodensity in the left cerebellum, which is felt 
likely to 
represent prominent sulci or volume averaging, however subtle 
acute infarct is not entirely excluded. MRI of the brain is 
recommended for further assessment. No intracranial hemorrhage. 
No intracranial mass effect. Occlusion of the left PCA at the 
level of the P1-P2 junction.  There is patchy distal 
reconstitution at the distal P3 and P4 segments.  Otherwise 
remaining intracranial vasculature is patent. Patent cervical 
vasculature without stenosis, aneurysm, or dissection. 
Additional findings described above. 

___ MR HEAD WITHOUT CONTRAST
___ left thalamic presumed acute infarct. Mild left inferior 
parietal lobule encephalomalacia, new from examination of ___. 
No intracranial hemorrhage.  Minimal periventricular and 
subcortical punctate T2/FLAIR white matter hyperintensities are 
nonspecific, but compatible with chronic microangiopathy in a 
patient this age. 

___ CT ABDOMEN/PELVIS WITH CONTRAST
Sigmoid diverticulosis with wall thickening and fat stranding 
surrounding 
the sigmoid colon without a definite isolated inflamed 
diverticulum.  
Additionally, there are other areas of the bowel which 
demonstrate wall 
thickening and surrounding fat stranding.  There is an 
associated 
irregularly-shaped, stellate rim enhanced fluid collection the 
right pelvic sidewall with overall confines measuring up to 4.8 
x 0.9 cm suspicious for abscess that is too ___ for ___ 
drainage given the size, shape, and intimate association with 
the adjacent bowel loops. Findings are overall consistent with a 
complicated colitis or diverticulitis. Hepatic cysts. 

___ MR HEAD WITH AND WITHOUT CONTRAST
Unchanged mild left inferior parietal lobule T2/FLAIR 
hyperintensity 
without abnormal enhancement or underlying mass, consistent with 

encephalomalacia. Redemonstration of ___ left thalamic 
acute/subacute infarction. No new foci of infarction. No other 
acute intracranial abnormalities. 

___ TTE
Normal left ventricular wall thickness, cavity size, and 
regional/global systolic function. Mild posterior mitral valve 
prolapse. Mild to moderate mid-late systolic mitral 
regurgitation. Mild to moderate tricuspid regurgitation. Mild 
aortic regurgitation. Moderate pulmonary artery systolic 
hypertension.

___ CT ABDOMEN/PELVIS WITH CONTRAST
Sigmoid diverticulosis with rectal and sigmoid wall thickening 
and edema 
with surrounding fat stranding. No definite isolated inflamed 
diverticulum is however identified. No significant interval 
change in several irregularly shaped pockets of extraluminal gas 
and phlegmon within the deep pelvis, too ___ for ___ drainage. 

___ PELVIC US
Evaluation of the adnexa is limited due to large amount of bowel 
gas and a 
___ amount of ascites in the pelvis. No adnexal masses seen, 
however the ovaries are not definitively visualized. 

___ CXR
There is a ___ left pleural effusion with left basilar 
atelectasis.  The 
right IJ line projects to the right atrium.  There is a 
dextroscoliosis.  
Cardiomediastinal silhouette is stable.  Linear opacity in the 
right upper 
lung could represent a skin fold. 

___ CXR
PICC line terminating probably in the uppermost atrium by about 
1-2 cm.  
Similar patchy left basilar opacity, atelectasis versus 
pneumonia with ___ pleural effusion. 

___ CXR
___ bilateral pleural effusions, new on the right, increased 
on the left. Heart is normal size. Pulmonary vasculature is 
borderline engorged.  No clear pulmonary edema. New 
opacification at the lung bases could be atelectasis alone. 
Right PIC line ends in the low SVC, as before. 

___ CXR
In comparison with the study of ___, the cardiomediastinal 
silhouette is stable and the degree of pulmonary vascular 
congestion is essentially 
unchanged.  Bilateral pleural effusions are again seen with 
substantial 
retrocardiac opacification consistent with volume loss in the 
left lower lobe. Central catheter is unchanged. 

___ TEE
There is no spontaneous echo contrast or thrombus in the body of 
the left atrium/left atrial appendage. The left atrial appendage 
ejection velocity is mildly depressed. No spontaneous echo 
contrast or thrombus is seen in the body of the right 
atrium/right atrial appendage. The right atrial appendage 
ejection velocity is normal. There is no evidence for an atrial 
septal defect by 2D/color Doppler. Overall left ventricular 
systolic function is normal. The right ventricle has normal free 
wall motion. There are no aortic arch atheroma with no atheroma 
in the descending aorta. The aortic valve leaflets (3) are 
mildly thickened. There is mild [1+] aortic regurgitation. The 
mitral valve leaflets are mildly thickend and
myxomatous with mild bileaflet systolic prolapse. There is mild 
to moderate [___] mitral regurgitation. The tricuspid valve 
leaflets are mildly thickened. There is trivial tricuspid 
regurgitation. A left pleural
effusion is present.

===============
DISCHARGE LABS:
===============

___ 06:33AM BLOOD WBC-7.6 RBC-3.25* Hgb-10.0* Hct-30.7* 
MCV-95 MCH-30.8 MCHC-32.6 RDW-15.8* RDWSD-54.7* Plt ___
___ 06:33AM BLOOD Glucose-82 UreaN-8 Creat-0.4 Na-140 K-4.6 
Cl-101 HCO3-26 AnGap-13
___ 06:33AM BLOOD Calcium-9.2 Phos-3.8 Mg-2.___, left handed woman, who was admitted to the Neurology stroke 
service with a L thalamic infarct secondary to an acute ischemic 
stroke, likely due to cardioembolism in the setting of atrial 
fibrillation. During her hospital course she was also diagnosed 
with complicated diverticulitis requiring IV antibiotics. 
Diverticulitis did not resolve so she went to the OR where 
patient was found to have peritoneal seeding and multiple 
nodules with frozen section concerning for malignancy. Workup 
was negative for malignancy. She returned to the OR for sigmoid 
colectomy, SBRx3, loop ileostomy, and left 
salpingo-oophorectomy. Regarding her atrial fibrillation, she 
was on heparin drip briefly and was reinitiated on Xarelto 
during her hospitalization. Her hospital course was complicated 
by rapid ventricular response and was on diltiazem drip briefly 
before being transitioned to oral metoprolol and diltiazem at 
high doses continued ventricular rates up to as high as 190. 
DCCV was attempted but unsuccessful and started on flecainide 
with good result. During this admission she experienced 
significant weight loss ~14lbs, likely in the setting of 
decreased PO intake post-surgery.

====================
ACUTE/ACTIVE ISSUES:
====================

# Acute ischemic infarct - left thalamus
She presented with right sided weakness. Her MRI showed left 
inferior paramedian thalamic infarct. CTA showed left PCA 
cutoff. Her stroke was most likely secondary to a cardioembolic 
event given her history of afib. Though she was taking xarelto, 
we feel that she may have missed some doses (pharmacy reported 
to last have filled prescription in ___ - which was a 
90 day prescription; additionally her coags were normal on 
admission). Given this rivaroxaban was restarted. She was 
counseled on her compliance and her daughter bought her a pill 
box to remember to take her pills. Her deficits improved greatly 
prior to discharge and the only notable weakness was in the R 
leg and R finger extensors. Her stroke risk factors include the 
following: 1) DM: A1c 4.9%, 2) Hyperlipidemia: LDL of 98. Given 
the patient's aversion to starting new medications, it was 
decided not to start atorvastatin at discharge. However, this 
should be discussed further with her PCP. Work-up for other 
possible etiologies of stroke was negative, including TTE 
without evidence of PFO or LA/LV thrombus. 

# Complicated diverticulitis vs. colitis with abscess
# Pelvic mass
# Weight loss
Patient reported significant abdominal pain and constipation on 
admission, which had been an ongoing issue for about one month. 
CT abdomen/pelvis revealed evidence of diverticulitis vs. 
colitis and likely abscess. GI were consulted and she was 
started on ciprofloxacin and flagyl (day ___ with plan for 
14 day course. She did not improve by hospital day 4, prompting 
a CRS consult, who recommended broadening her antibiotics to 
vancomycin and zosyn. The patient remained on IV antibiotics 
until ___ when she went to surgery for more definitive therapy 
given the lack of improvement in her symptoms. In the OR patient 
was found to have peritoneal seeding and multiple nodules with 
frozen section concerning for malignancy. No colectomy or other 
procedure done. Biopsy results were non-diagnostic. She returned 
to the OR on ___ for sigmoid colectomy, SBRx3, and loop 
ileostomy. She was slowly transitioned to a regular diet 
post-operatively and met with the ostomy nurse regularly to 
learn how to manage her ostomy and accurately record her Is and 
Os. At the time of discharge, she was tolerating a regular diet 
and had return of normal bowel function with surgical follow-up 
scheduled. Of note, patient had 14lb weight loss since 
admission, likely in the setting of poor PO intake and acute 
illness. Refused supplementation and artificial nutrition. 
However, given non-diagnostic biopsy results, if weight loss 
persists despite improvement in appetite, would consider further 
malignancy work-up.

# Atrial fibrillation 
Patient previously on atenolol 25 mg daily and Xarelto. Atenolol 
was held in the setting of acute stroke and was resumed after 48 
hrs (on ___. Initially Xarelto was switched to apixiban as it 
was thought she had been compliant with her medications. 
However, discussion with her pharmacy revealed she had not 
filled her Rx for Xarelto since ___ and her coags were 
normal on admission, suggesting that she was not taking her 
Xarelto. Therefore, Xarelto was reinitiated while she was an 
inpatient. Her hospital course was also complicated by RVR, for 
which she was intermittently on a diltiazem drip. On admission 
to FICU, patient on heparin drip and dilt drip. Dilt drip 
downtitrated and switched to PO. Heparin drip discontinued and 
switched to rivaroxaban. Once she was transitioned to PO 
medications, she was transferred to the floor. However, she 
continued to have issues with rate control and her PO metoprolol 
and diltiazam doses were increased to high doses without 
adequate rate control. Unsuccessful TEE/DCCV was performed on 
___. Flecainide was started ___ with reversion to sinus 
rhythm the morning of ___. Diltiazem was discontinued and 
patient was scheduled for exercise tolerance test two weeks post 
discharge, the results of which will be faxed to Dr. ___. 
Patient was transitioned from metoprolol to atenolol per her 
request.

# Cognitive decline 
Family reports ___ years of progressive memory problems. She had 
been previously evaluated in ___ clinic who felt she had 
mild neurocognitive decline likely vascular. She was evaluated 
by OT who expressed safety concerns at home. She was discharged 
to acute rehab facility with follow-up with neuropsych as a 
transitional issue.

====================
TRANSITIONAL ISSUES: 
====================

- discharge Hgb 10.0
- discharge creatinine 0.4
- discharge weight 96.5lbs/43.8kg

MEDICATION CHANGES:
[] started flecainide 100mg Q12H
[] started multivitamin with minerals one tablet daily

[] SECONDARY PREVENTION: ongoing discussion regarding initiation 
of statin therapy
[] WEIGHT LOSS: 14lb weight loss during admission, likely due to 
illness and poor PO intake, closely follow weight 
[] ILEOSTOMY: patient will be followed with CRS with regards to 
stoma and post-operative care
[] FLECAINIDE: patient should have ETT two weeks after discharge
[] ANTICOAGULATION: important patient remains anticoagulated to 
avoid further cardio-embolic strokes
[] COGNITIVE IMPAIRMENT: discussion should be had with 
outpatient neurologist/PCP ___: referral to cognitive neurology

==========================================
# CODE STATUS: Full
# CONTACT: ___, ___, ___
 
Medications on Admission:
1. Atenolol 25 mg PO DAILY 
2. Rivaroxaban 20 mg PO DAILY 

 
Discharge Medications:
1.  Flecainide Acetate 100 mg PO Q12H 
RX *flecainide 100 mg 1 tablet(s) by mouth every twelve (12) 
hours Disp #*60 Tablet Refills:*1 
2.  Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals  1 tablet(s) by mouth daily Disp 
#*90 Tablet Refills:*1 
3.  Atenolol 25 mg PO DAILY 
RX *atenolol 25 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*1 
4.  Rivaroxaban 20 mg PO DAILY 
RX *rivaroxaban [Xarelto] 20 mg 1 tablet(s) by mouth daily with 
the evening meal Disp #*90 Tablet Refills:*1 
5.commode
Diagnosis: Diverticulitis s/p sigmoid colectomy
Prognosis: Good
Length of Need: 13 monoths
6.rolling walker
Diagnosis: Diverticulitis s/p colectomy
Prognosis: Good
Length of need: 13 months

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
==================
PRIMARY DIAGNOSES:
==================

Acute ischemic stroke, left thalamus
Acute complicated diverticulitis, status post exploratory 
laparotomy, sigmoid resection, mobilization of splenic flexure, 
___ bowel resection x3, ileostomy, left salpingo-oophorectomy 
and placement of a
Prevena VAC
Atrial fibrillation with rapid ventricular response, status post 
failed cardioversion
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure caring for you at ___.

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were hospitalized due to symptoms of right sided weakness.

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- In the hospital, you were found to have an ACUTE ISCHEMIC 
STROKE, a condition where a blood vessel providing oxygen and 
nutrients to the brain is blocked by a clot. The brain is the 
part of your body that controls and directs all the other parts 
of your body, so damage to the brain from being deprived of its 
blood supply can result in a variety of symptoms.
- You also had diverticulitis, when part of the colon becomes 
inflamed and painful. This did not resolve with antibiotics, so 
you had abdominal surgery, where part of your large and ___ 
bowel were removed and an ileostomy was created.
- Throughout your hospitalization, you had atrial fibrillation, 
a rhythm problem in the heart which can result in a very high 
heart rate. Your heart rate was difficult to control so a 
medication called Flecainide was started to help your heart 
convert back into a normal, or sinus, rhythm.
 
WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- You should follow-up with your neurologist with regards to 
your stroke
- You should follow-up with the surgeons for post-operative care
- You should also follow-up with your cardiologist with regards 
to your heart rhythm 
- The rehab will arrange follow-up with your PCP when you are 
discharged
- It is important you continue to take all your medications as 
prescribed

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Your ___ Healthcare Team   

MEDICATION CHANGES:
[] started flecainide 100mg Q12H
[] started multivitamin with minerals one tablet daily
 
Followup Instructions:
___